US08383636B2
To a solution of benzyl (RS)-2-((RS)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-hydroxypropylcarbamate (0.843 g, 2.73 mmol) in dry dichloromethane (30 mL) was added diisopropylethylamine (1.351 ml, 8.18 mmol) and then methanesulfonyl chloride (0.274 ml, 3.54 mmol) and the resulting solution was stirred at RT. After 15 mins it was washed with water, dil HCl, and sat aq NaHCO3 and then processed normally. A solution of the crude product in DMF (15 mL) was treated with sodium thiomethoxide (0.573 g, 8.18 mmol) and the mixture was stirred at RT for 1 h. Then toluene was added and the mixture was washed with water (×2) and processed normally. Chromatography (EtOAc/Hex 1:2) gave benzyl (SR)-2-((RS)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propylcarbamate (0.77 g, 2.268 mmol, 83% yield) as a syrup. 13C NMR (CDCl3) δ156.9, 136.9, 128.9, 128.5, 128.5, 109.3, 76.8, 67.7, 67.1, 41.9, 33.7, 26.9, 25.6, 16.6.

reactant | benzyl (RS)-2-((RS)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-hydroxypropylcarbamate | 2.73 mmol, 0.843 g | CC1(OCC(O1)C(CNC(OCC1=CC=CC=C1)=O)CO)C | C16H23NO5
reactant | diisopropylethylamine | 8.18 mmol, 1.351 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 3.54 mmol, 0.274 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium thiomethoxide | 8.18 mmol, 0.573 g | C[S-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzyl (SR)-2-((RS)-2,2-dimethyl-1,3-dioxolan-4-yl)-3-(methylthio)propylcarbamate | 2.268 mmol, 0.77 g, 83% yield | CC1(OCC(O1)C(CNC(OCC1=CC=CC=C1)=O)CSC)C | C17H25NO4S
